US05661159
A mixture of 2-(5-formylbenzofuran-2-yl)quinoline (0.92 g), manganese (IV) oxide (4.6 g), sodium cyanide (2.2 g) and acetic acid (0.6 ml) in methanol (200 ml) was stirred at ambient temperature for 1.5 hours. The resulting mixture was filtered and filtrate was poured into water (400.ml). The appeared precipitates were collected by filtration and washed with water. The precipitates were subjected to column chromatography on silica gel and eluted with a mixture of toluene and ethyl acetate (50:1). The fractions containing objected compound were combined and concentrated under reduced pressure to give 2-(5-methoxycarbonylbenzofuran-2-yl)-quinoline (0.48 g).

reactant | 2-(5-formylbenzofuran-2-yl)quinoline | 0.92 g | C(=O)C=1C=CC2=C(C=C(O2)C2=NC3=CC=CC=C3C=C2)C1 | C18H11NO2
reactant | sodium cyanide | 2.2 g | [C-]#N.[Na+]
reactant | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 200 ml | CO | CH4O
catalyst | manganese (IV) oxide | 4.6 g | [O-2].[Mn+4].[O-2]
product | 2-(5-methoxycarbonylbenzofuran-2-yl)-quinoline | 0.48 g | COC(=O)C=1C=CC2=C(C=C(O2)C2=NC3=CC=CC=C3C=C2)C1 | C19H13NO3
